US07314933B2
6-(Quinoxalin-6-yl)-N-(4-(trifluoromethyl)phenyl)pyrimidin-4-amine.
A mixture of 6-chloro-N-(4-(trifluoromethyl)phenyl)pyrimidin-4-amine (273 mg, 1.0 mmol), benzopyrazine-6-boronic acid hydrochloride (Asymchem, 211 mg, 1.0 mmol), Na2CO3 (529 mg, 5.0 mmol) and PdCl2(PPh3)2 (Strem, 60 mg, 0.1 mmol) in 7 mL DME/3 mL H2O/2 mL EtOH was heated to 120° C. for 17 min in the Smith Optimizer microwave. The reaction mixture was partitioned between EtOAc/brine and the aqueous layer was extracted with EtOAc (3×). The combined organics were evaporated onto SiO2 and purified by flash column chromatography eluting with EtOAc/Hexane/2M NH3 in MeOH/CH2Cl2 (0:1:0:0→1:1:0:0→0:0:19:1). The fractions containing desired compound were combined and concentrated in vacuo giving a solid. The solid was washed with a minimal amount of CH2Cl2 and dried in vacuo to give a light pink amorphous solid. MS (ESI, pos ion.) m/z: 368 (M+1).

reactant | 6-chloro-N-(4-(trifluoromethyl)phenyl)pyrimidin-4-amine | 1.0 mmol, 273 mg | ClC1=CC(=NC=N1)NC1=CC=C(C=C1)C(F)(F)F | C11H7ClF3N3
reactant | benzopyrazine-6-boronic acid hydrochloride | 1.0 mmol, 211 mg | Cl.N1=CC=NC2=C1C=CC(=C2)B(O)O
reactant | Na2CO3 | 5.0 mmol, 529 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 7 mL | COCCOC | C4H10O2
catalyst | PdCl2(PPh3)2 | 0.1 mmol, 60 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-(Quinoxalin-6-yl)-N-(4-(trifluoromethyl)phenyl)pyrimidin-4-amine | N1=CC=NC2=CC(=CC=C12)C1=CC(=NC=N1)NC1=CC=C(C=C1)C(F)(F)F | C19H12F3N5
